US05726205
(4) trans-O-cyclohexanoyl-4-(4-dimethylaminomethylphenyl)-cyclohexanol
from trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol and cyclohexane carboxylic acid chloride/triethylamine. White crystals.

reactant | trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol | CN(C)CC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C15H23NO
reactant | cyclohexane carboxylic acid chloride triethylamine | C1(CCCCC1)C(=O)Cl.C(C)N(CC)CC
product | trans-O-cyclohexanoyl-4-(4-dimethylaminomethylphenyl)-cyclohexanol | C1(CCCCC1)C(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN(C)C | C22H33NO2
